USRE029556
36 Parts of 2,2-diphenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyronitrile (U.S. Pat. No. 3,318,864), 9.8 parts of sodium azide, 8.06 parts of ammonium chloride, and 0.15 part of lithium chloride are placed in 50 parts by volume of dimethylformamide and heated at 125° for 12 hours. The solution is cooled and a white solid is filtered off. The solid is washed with dimethylformamide and water and then dried. This procedure provides 5-[1,1-diphenyl-3-(3-azabicyclo[3.2.2]non-3-yl)propyl]-1H-tetrazole melting at 284°-286°.

reactant | 2,2-diphenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyronitrile | C1(=CC=CC=C1)C(C#N)(CCN1CC2CCC(C1)CC2)C2=CC=CC=C2 | C24H28N2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[1,1-diphenyl-3-(3-azabicyclo[3.2.2]non-3-yl)propyl]-1H-tetrazole | C1(=CC=CC=C1)C(CCN1CC2CCC(C1)CC2)(C2=CC=CC=C2)C2=NN=NN2 | C24H29N5
